US07241791B2
3-(2,4-dimethoxyphenyl)-7-(trifluoromethyl)-1H-indazole
Prepared according to Method D Step A from (2,4-dimethoxyphenyl)[2-fluoro-3-(trifluoromethyl)phenyl]methanone (1.50 g, 5.17 mmol), hydrazine hydrate (1.61 mL, 51.7 mmol) and DMAP (0.632 g, 5.17 mmol) to give the product (0.619 g) as a yellow solid.

reactant | (2,4-dimethoxyphenyl)[2-fluoro-3-(trifluoromethyl)phenyl]methanone | 5.17 mmol, 1.50 g | COC1=C(C=CC(=C1)OC)C(=O)C1=C(C(=CC=C1)C(F)(F)F)F | C16H12F4O3
reactant | hydrazine hydrate | 51.7 mmol, 1.61 mL | O.NN
catalyst | DMAP | 5.17 mmol, 0.632 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-(2,4-dimethoxyphenyl)-7-(trifluoromethyl)-1H-indazole | 0.619 g | COC1=C(C=CC(=C1)OC)C1=NNC2=C(C=CC=C12)C(F)(F)F | C16H13F3N2O2
